US06358992B1
To a stirred solution of methyl 3-ethylindole-6-carboxylate (138 mg) in dichloromethane (5 ml) was added sulfuryl chloride (0.066 ml), and the mixture was stirred at 20° C. for 1 hour. The resulting mixture was poured into ice and extracted with ethyl acetate. The combined organic phase was washed with aqueous sodium bicarbonate and brine, then dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (4:1) to give methyl 2-chloro-3-ethylindole-6-carboxylate (58.2 mg) as a solid.

reactant | methyl 3-ethylindole-6-carboxylate | 138 mg | C(C)C1=CNC2=CC(=CC=C12)C(=O)OC | C12H13NO2
reactant | sulfuryl chloride | 0.066 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-3-ethylindole-6-carboxylate | 58.2 mg | ClC=1NC2=CC(=CC=C2C1CC)C(=O)OC | C12H12ClNO2
